US07423030B2
45.3. 4-(4-Bromophenyl)-1-chloro-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-(4-bromophenyl)-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-(4-bromophenyl)-7-methoxy-2H-phthalazin-1-one | BrC1=CC=C(C=C1)C1=NNC(C2=CC(=CC=C12)OC)=O | C15H11BrN2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-(4-Bromophenyl)-1-chloro-7-methoxyphthalazine | BrC1=CC=C(C=C1)C1=NN=C(C2=CC(=CC=C12)OC)Cl | C15H10BrClN2O
